US08975254B2
c) (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)imidazo[2,1-b]thiazole-6-carboxamide
The title compound was prepared from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.31 g, 1.19 mmol), imidazo[2,1-b]thiazole-6-carboxylic acid (0.2 g, 1.19 mmol), HOBt (0.24 g, 1.78 mmol), DIPEA (0.62 mL, 3.57 mmol) and EDCI (0.34 g, 1.78 mmol) using DMF (10 mL) as solvent using the method of Example 34(d) affording 232 mg of the product. 1H NMR (400 MHz; MeOD): δ 1.24 (d, 3H), 4.38 (m, 2H), 4.55 (m, 1H), 6.76 (d, 1H), 7.21 (d, 1H), 7.75 (m, 3H), 7.90 (dd, 1H), 8.06 (m, 1H), 8.09 (s, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 1.19 mmol, 0.31 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | imidazo[2,1-b]thiazole-6-carboxylic acid | 1.19 mmol, 0.2 g | S1C=2N(C=C1)C=C(N2)C(=O)O | C6H4N2O2S
reactant | HOBt | 1.78 mmol, 0.24 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 3.57 mmol, 0.62 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 1.78 mmol, 0.34 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)imidazo[2,1-b]thiazole-6-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C2SC=CN2C1 | C19H15ClN6OS
